* NGSPICE file created from ibias_10nA.ext - technology: sky130A

.subckt ibias_10nA_parax Vdd Vss Vnbias Vpbias
X0 a_272_n1534# Vpbias.t3 Vdd.t0 w_108_n1634# sky130_fd_pr__pfet_01v8 ad=0.29 pd=2.58 as=0.29 ps=2.58 w=1 l=0.35
X1 Vss.t0 a_272_n1534# a_532_n1524# VSUBS sky130_fd_pr__nfet_01v8 ad=0.29 pd=2.58 as=0.17183 ps=1.605 w=1 l=1
X2 a_532_n1524# Vnbias.t3 Vpbias.t2 VSUBS sky130_fd_pr__nfet_01v8 ad=0.25775 pd=2.41 as=0.145 ps=1.58 w=0.5 l=0.2
X3 a_532_n1524# a_272_n1534# a_272_n1534# VSUBS sky130_fd_pr__nfet_01v8 ad=0.17183 pd=1.605 as=0.29 ps=2.58 w=1 l=0.2
X4 Vnbias.t0 Vpbias.t4 Vdd.t2 w_108_n1634# sky130_fd_pr__pfet_01v8 ad=0.145 pd=1.58 as=0.145 ps=1.58 w=0.5 l=0.35
X5 Vpbias.t1 Vpbias.t0 Vdd.t1 w_108_n1634# sky130_fd_pr__pfet_01v8 ad=0.145 pd=1.58 as=0.145 ps=1.58 w=0.5 l=0.35
X6 Vss.t1 Vnbias.t1 Vnbias.t2 VSUBS sky130_fd_pr__nfet_01v8 ad=0.145 pd=1.58 as=0.145 ps=1.58 w=0.5 l=0.2
R0 Vpbias.n0 Vpbias.t1 651.442
R1 Vpbias Vpbias.t3 274.702
R2 Vpbias.n0 Vpbias.t2 229.541
R3 Vpbias.n1 Vpbias.n0 161.585
R4 Vpbias.t3 Vpbias.n1 112.927
R5 Vpbias.t0 Vpbias.t4 106.04
R6 Vpbias.n1 Vpbias.t0 78.4976
R7 Vdd.n0 Vdd.t2 651.822
R8 Vdd.n0 Vdd.t1 651.431
R9 Vdd.n0 Vdd.t0 229.096
R10 Vdd Vdd.n0 0.30213
R11 Vss.n0 Vss.t1 229.345
R12 Vss.n0 Vss.t0 86.2735
R13 Vss Vss.n0 1.86752
R14 Vnbias.n0 Vnbias.t0 651.864
R15 Vnbias.n0 Vnbias.t2 229.145
R16 Vnbias.n2 Vnbias.n1 161.3
R17 Vnbias.n1 Vnbias.t3 115.68
R18 Vnbias.n1 Vnbias.t1 110.861
R19 Vnbias Vnbias.n2 0.391066
R20 Vnbias.n2 Vnbias.n0 0.219135
C0 Vpbias Vss 0.02552f
C1 a_272_n1534# Vdd 0.11511f
C2 Vpbias a_532_n1524# 0.07515f
C3 Vdd w_108_n1634# 0.03724f
C4 a_272_n1534# Vss 0.07355f
C5 Vss w_108_n1634# 0.01492f
C6 a_272_n1534# a_532_n1524# 0.01779f
C7 Vdd Vnbias 0.06494f
C8 a_272_n1534# Vpbias 0.11032f
C9 Vss Vnbias 0.37229f
C10 Vpbias w_108_n1634# 0.1834f
C11 a_532_n1524# Vnbias 0.08914f
C12 Vpbias Vnbias 0.11874f
C13 a_272_n1534# w_108_n1634# 0.02561f
C14 a_272_n1534# Vnbias 0.06798f
C15 w_108_n1634# Vnbias 0.02584f
C16 Vss Vdd 0.14414f
C17 a_532_n1524# Vdd 0
C18 Vpbias Vdd 0.27886f
C19 Vss a_532_n1524# 0.01192f
C20 Vss VSUBS 0.58242f
C21 Vdd VSUBS 0.21986f
C22 Vpbias VSUBS 0.46435f
C23 Vnbias VSUBS 0.2999f
C24 a_272_n1534# VSUBS 0.69115f
C25 a_532_n1524# VSUBS 0.03061f
C26 w_108_n1634# VSUBS 0.57586f
.ends

